US08097628B2
(a) (2-chloro-4-methylphenyl)methanol
Methyl 2-chloro-4-methylbenzoate (520 mg, 2.82 mmol) was dissolved in Dichloromethane (DCM) (15 mL) and at 0° C. Dibal-H (4.694 ml, 7.04 mmol) was slowly added. The mixture was left at 0° C. for 2H and then at room temperature overnight. Next morning HPLC showed no starting material remaining, reaction was quenched with Rochelle salt, and leaving under stirring for 1 hour and then it was extracted with DCM, dried and concentrated to afford 365 mg of the final compound, pure enough to be used in the next step.

reactant | Methyl 2-chloro-4-methylbenzoate | 2.82 mmol, 520 mg | ClC1=C(C(=O)OC)C=CC(=C1)C | C9H9ClO2
reactant | Dibal-H | 7.04 mmol, 4.694 ml | CC(C)C[Al]CC(C)C
solvent | Dichloromethane | 15 mL | ClCCl | CH2Cl2
product | (2-chloro-4-methylphenyl)methanol | 365 mg | ClC1=C(C=CC(=C1)C)CO | C8H9ClO
